US07320972B2
(3R,4S)-3-[(3S)-3-(4-Fluorophenyl)-3-hydroxypropyl]-1-phenyl-4-[3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-yl]azetidin-2-one (0.020 g, 0.034 mmol) was dissolved in ethanol (3 mL) and water (1 mL) at room temperature. Solid sodium carbonate (0.10 g, 1.2 mmol) was added and the mixture was rapidly stirred 2 h at room temperature. The solution was poured into 0.5 N hydrochloric acid (4 mL) and extracted with ethyl acetate. The organic phase was washed successively with water (2×) and brine, then dried over sodium sulfate, filtered and the solvent was removed by rotary evaporation under reduced pressure. The residue was purified by reverse-phase HPLC (Polaris C18-A 10 μ 250×21.2 mm column, 40% to 75% acetonitrile-0.1% trifluoroacetic acid in water) to afford (4′-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)boronic acid as a white powder (0.012 g, 70%); 1H NMR (300 MHz, CD3OD) δ 7.83 (br s, 1H), 7.0-7.7 (m, 16H), 4.92 (d, J=2.7 Hz, 1H), 4.63 (t, J=6.2 Hz, 1H), 3.1-3.2 (m, 1H), 1.8-2.1 (m, 4H) ppm; MS [M+HCO2−]− 540.

reactant | (3R,4S)-3-[(3S)-3-(4-Fluorophenyl)-3-hydroxypropyl]-1-phenyl-4-[3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-yl]azetidin-2-one | 0.034 mmol, 0.020 g | FC1=CC=C(C=C1)[C@H](CC[C@H]1C(N([C@@H]1C1=CC=C(C=C1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)=O)O | C36H37BFNO4
reactant | water | 1 mL | O | H2O
reactant | sodium carbonate | 1.2 mmol, 0.10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 0.5 N, 4 mL | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (4′-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl)boronic acid | 0.012 g, 70% | FC1=CC=C(C=C1)[C@H](CC[C@@H]1[C@H](N(C1=O)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)B(O)O)O | C30H27BFNO4
